US08372842B2
tert-Butyl 4-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (465 mg, 1.06 mmol) in 25% TFA/CH2Cl2 (25 mL) was stirred at room temperature for 2 hours. The solvent was removed, and the gum obtained was evaporated from toluene (3×20 mL; water bath 60° C.). Neat TFA was added to the residue and stirred at reflux for 3 hours. Next, TFA was removed under reduced pressure, and the resulting residue was evaporated form CH2Cl2 (2×10 mL). The residue was resuspended in CH2Cl2 (2 mL), and 2M HCl in diethyl ether (5 mL) was added. The resulting suspension was concentrated in vacuo, and the residue was crystallized from boiling EtOH to provide 5-methyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride (175 mg, 0.603 mmol, 56.7% yield) as a powder after drying under high vacuum for 4 hours. LCMS (APCI+) m/z 218.1 (M+H)+.

reactant | tert-Butyl 4-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 1.06 mmol, 465 mg | COC1=CC=C(CN2N=CC=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C)C=C1 | C24H31N5O3
reactant | TFA CH2Cl2 | 25 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-methyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 0.603 mmol, 175 mg, 56.7% yield | Cl.Cl.CC=1C(=C2C(=NC1)NN=C2)N2CCNCC2 | InChI=1S/C11H15N5.2ClH/c1-8-6-13-11-9(7-14-15-11)10(8)16-4-2-12-3-5-16;;/h6-7,12H,2-5H2,1H3,(H,13,14,15);2*1H
